US08686004B2
Stage 1: N-[(6-Bromopyridin-2-yl)sulphonyl]acetamide
6-Bromopyridine-2-sulphonamide (0.5 g, 2.11 mmol, prepared by the methods described in WO2005/058299) and potassium carbonate (2.92 g, 21.1 mmol) were initially charged in acetonitrile (10 ml). While cooling with ice, acetyl chloride (1.16 g, 14.8 mmol) was added dropwise and the reaction mixture was stirred at room temperature for 16 h. The solvent was removed under reduced pressure, and the residue was taken up in water and acidified with dilute hydrochloric acid solution. It was extracted with ethyl acetate and the solvent was removed under reduced pressure. This gave 0.54 g (85% of theory) of N-[(6-bromopyridin-2-yl)sulphonyl]-acetamide.

reactant | 6-Bromopyridine-2-sulphonamide | BrC1=CC=CC(=N1)S(=O)(=O)N | C5H5BrN2O2S
reactant | potassium carbonate | 21.1 mmol, 2.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetyl chloride | 14.8 mmol, 1.16 g | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[(6-Bromopyridin-2-yl)sulphonyl]acetamide | BrC1=CC=CC(=N1)S(=O)(=O)NC(C)=O | C7H7BrN2O3S
